US05283378
3-Chloro-tetrafluorobenzonitrile was reacted at 240° C. The reaction products were collected in 300 ml of water and, after reaction was complete, the mixture was made alkaline with 40% strength by weight aqueous sodium hydroxide solution. The organic material was extracted with methyl tert.-butyl ether, analysed and then worked up by distillation. 2,3,4,6-Tetrafluoro-toluene of boiling point 108° C. was isolated in a yield of 77.3%.

reactant | 3-Chloro-tetrafluorobenzonitrile | ClC=1C(=C(C#N)C(=C(C1F)F)F)F | C7ClF4N
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,3,4,6-Tetrafluoro-toluene | yield of 77.3% | FC1=C(C(=CC(=C1F)F)F)C | C7H4F4
